US05594081
(4) Synthesis of 4-bromo-1-indanone
Thionyl chloride (85 ml) was added to 3-(2-bromophenyl)propionic acid (16.88 g), and the mixture was stirred under reflux for 2 hours. After the mixture was left standing for cooling, the excessive amount of the thionyl chloride was removed by distillation under reduced pressure, and the residual mixture was distilled azeotropically once with toluene and once with carbon tetrachloride. The residual concentrate was dissolved in carbon tetrachloride (30 ml) and added at a temperature of 5°-10° C. dropwise to a suspension of aluminum chloride (14.74 g) in carbon tetrachloride (100 ml). The mixture was stirred at the same temperature for 40 minutes, then at room temperature for 30 minutes and further under reflux for 1 hour. After left standing for cooling, the mixture was poured into ice-hydrochloric acid, and extracted with methylene chloride. The organic layer was washed with dilute hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous saline, and dried over sodium sulfate. The solvent was removed by distillation under reduced pressure, and the residual concentrate was purified by chromatography on a silica gel column to give the title compound (13.2 g).

reactant | Thionyl chloride | 85 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(2-bromophenyl)propionic acid | 16.88 g | BrC1=C(C=CC=C1)CCC(=O)O | C9H9BrO2
product | 4-bromo-1-indanone | 13.2 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
